US06552012B2
9-Methyl-3-tert-butoxycarbonyl-3,9-diazabicyclo-[4.2.1]-nonane (Compound 1E3)
A mixture of 9-Methyl-3,9-diazabicyclo-[4.2.1]-nonane (2.0 g, 14.3 mmol), triethylamine (2.89 g, 28.6 mmol), Di-tert-butyl-dicarbonate (3.12 g, 14.3 mmol) and dichloromethane (20 ml) was stirred overnight at room temperature. Sodium hydroxide (30 ml, 1 M) was added. The phases were separated and the aqueous phase was extracted with dichloromethane (30 ml). The title compound was isolated as an oil. Yield 3.5 g.

reactant | 9-Methyl-3,9-diazabicyclo-[4.2.1]-nonane | 14.3 mmol, 2.0 g | CN1C2CNCCC1CC2 | C8H16N2
reactant | triethylamine | 28.6 mmol, 2.89 g | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl-dicarbonate | 14.3 mmol, 3.12 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Sodium hydroxide | 1 M, 30 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 9-Methyl-3-tert-butoxycarbonyl-3,9-diazabicyclo-[4.2.1]-nonane | CN1C2CN(CCC1CC2)C(=O)OC(C)(C)C | C13H24N2O2
